US08067621B2
Step 1: {2-[4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-9-oxa-1-aza-phenanthren-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester
BOC-Glycine was dissolved in 150 ml of DMF. 0.5 ml of diisopropylamine was added followed by HATU (2.54 g, 6.68 mmol). The solution was stirred at room temperature for 25 minutes then 4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-1H-9-oxa-1-aza-phenanthrene (541 mg, 1.35 mmol) was added and the reaction was stirred overnight. The reaction was quenched with water and washed with 1:1 mixture of ethyl acetate and hexanes solution. The organic layer was dried over sodium sulfate and concentrated. The product was purified by column using EtOAc/Hex. as the eluent (0/100 to 25/75 in 35 minutes). Yield: 594.6 mg, 79%. 1H NMR (CDCl3 400 MHz) δ 7.57 (d, J=8.8 Hz, 2H), 7.41 (d, J=8.8 Hz, 2H), 7.03 (td, J=8.8, 4.4 Hz, 1H), 6.57-6.49 (m, 1H), 5.60-5.55 (m, 1H), 5.35 (bs, 1H), 4.49 (dd, J=11.7, 3.7 Hz, 1H), 4.18 (dd, J=11.7, 5.9 Hz, 1H), 4.00 (s, 1H), 3.90 (d, J=5.1 Hz, 1H), 3.54 (bs, 1H), 2.95-2.80 (m, 1H), 2.65-2.56 (m, 1H), 2.52-2.41 (m, 1H), 2.13-1.98 (m, 1H), 1.51-1.40 (m, 1H), 1.40 (s, 9H).

reactant | BOC-Glycine | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | diisopropylamine | 0.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | HATU | 6.68 mmol, 2.54 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-1H-9-oxa-1-aza-phenanthrene | 1.35 mmol, 541 mg | ClC1=CC=C(C=C1)S(=O)(=O)C12CCCNC2COC2=C(C=CC(=C12)F)F | C18H16ClF2NO3S
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | {2-[4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-9-oxa-1-aza-phenanthren-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(=O)N1CCCC2(C3=C(C=CC(=C3OCC12)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C25H27ClF2N2O6S
